US07696200B2
4-{[4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-2-methyl-benzoic acid, MS (ISP): m/e=515.0 (M−H), was prepared as described in example 1, steps 1 to 6. Step 5 was performed using 4-amino-2-methyl-benzoic acid ethyl ester and yielded 4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-2-methyl-benzoic acid ethyl ester, which was hydrolyzed in step 6.

reactant | 4-{[4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-2-methyl-benzoic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCOC2=C1C=C(C=C2)C(=O)NC2=CC(=C(C(=O)O)C=C2)C)OC | C24H21ClN2O7S
reactant | 4-amino-2-methyl-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)N)C)=O | C10H13NO2
product | 4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-2-methyl-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1)C)=O | C26H25ClN2O7S
